US06297257B1
Synthesis of 2-(4-Cyclopentyloxy-3-methoxy-phenyl)ethylamine Hydrochloride
A slurry under nitrogen of lithium aluminium hydride (3.05 g, 80.34 mmoles) in dry tetrahydrofuran (30 ml), was dropwise added under stirring with a solution of 1-cyclopentyloxy-2-methoxy-4-(2-nitro-vinyl)-benzene (7.05 g, 26.78 mmoles), obtained as described in example 7, in dry tetrahydrofuran (100 ml). At the end of the addition the mixture was refluxed for 2 hours, then cooled in ice and slowly added with water (3.05 ml), 15% NaOH (3.05 ml) and water again (9.15 ml). Off the cooling bath, the stiring was kept on for another hour, then the solid was filtered off and the solution was concentrated to small volume, diluted with ethyl acetate, washed with water, anhydrified over Na2SO4 and dried to give an oil which was dissolved in ethyl acetate (100 ml) and acidified with HCl/ethyl acetate. The product crystallized, thus was filtered and dried under vacuum at 50° C. to give 5.14 g of the title product (yield: 71%).

reactant | lithium aluminium hydride | 80.34 mmoles, 3.05 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-cyclopentyloxy-2-methoxy-4-(2-nitro-vinyl)-benzene | 26.78 mmoles, 7.05 g | C1(CCCC1)OC1=C(C=C(C=C1)C=C[N+](=O)[O-])OC | C14H17NO4
reactant | NaOH | 3.05 ml | [OH-].[Na+]
reactant | HCl ethyl acetate | Cl.C(C)(=O)OCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 3.05 ml | O | H2O
product | 2-(4-Cyclopentyloxy-3-methoxy-phenyl)ethylamine Hydrochloride | 5.14 g, yield: 71% | Cl.C1(CCCC1)OC1=C(C=C(C=C1)CCN)OC | InChI=1S/C14H21NO2.ClH/c1-16-14-10-11(8-9-15)6-7-13(14)17-12-4-2-3-5-12;/h6-7,10,12H,2-5,8-9,15H2,1H3;1H
